US06815152B2
4-1) Synthesis of Di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Itaconate
13.5 g (0.12 moles) of itaconic anhydride, 69.8 g (0.26 moles) of 3,3,4,4,5,5,6,6,6-nonafluorohexanol, and 1.14 g (6 millimoles) of p-toluene sulfonic acid first hydrate were heated and refluxed in 500 mL of toluene for 12 hours, while distilling off water which was generated therein. Then, the mixture was cooled to room temperature, to this ethyl acetate was added, and an organic phase was washed with 1 mol/L of sodium hydroxide aqueous solution and saturated sodium chloride aqueous solution to obtain 51.3 g (69% yield) of compound as oil-state compound.

reactant | itaconic anhydride | 0.12 moles, 13.5 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | 3,3,4,4,5,5,6,6,6-nonafluorohexanol | 0.26 moles, 69.8 g | FC(CCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C6H5F9O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 6 millimoles, 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Di(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Itaconate | 51.3 g, 69% yield | C(C(=C)CC(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C17H12F18O4
